US05254595
Following the procedure of Example 27, but starting from 2-propargyloxy-l-(2,3-epoxypropoxy)benzene (2.04 g) and 2-aminotetralin in absolute ethanol (30 ml), N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(2-propargyloxyphenyl)propanamine hydrochloride is obtained, m.p. 129°-130° C. (Ex. 85).

reactant | 2-propargyloxy-l-(2,3-epoxypropoxy)benzene | 2.04 g | C(C#C)OC1=C(C=CC=C1)OCC1CO1 | C12H12O3
reactant | N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(2-propargyloxyphenyl)propanamine hydrochloride | Cl.C1C(CCC2=CC=CC=C12)NCC(CC1=C(C=CC=C1)OCC#C)O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-aminotetralin | NC1CC2=CC=CC=C2CC1 | C10H13N
